US04599409
2,7-Di-(pyrrolidinomethyleneamino)-5,10-dioxo-4,5,9,10-tetrahydro-4,9-dioxapyrene
A suspension of 2,7-diamino-5,10-dioxo-4,5,9,10-tetrahydro-4,9-dioxapyrene (500 mg) in tetrahyrofuran (4 ml) was added to a mixture of phosphorus oxychloride (0.7 ml) and N-formylpyrrolidine (2 ml) and tetrahydrofuran (4 ml), the temperature of the mixture being kept at 5° C. The resulting mixture was stirred for 30 minutes at room temperature, heated at 80° C. for 1 hour and worked up as described in Example 1, paragraph 1. Yield 68%, melting point 275° C. (decomposition) (CHCl3 /methanol).

reactant | 2,7-diamino-5,10-dioxo-4,5,9,10-tetrahydro-4,9-dioxapyrene | 500 mg | NC1=CC=2C(OC=3C=C(C=C4C(OC(=C1)C2C43)=O)N)=O | C14H8N2O4
reactant | phosphorus oxychloride | 0.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-formylpyrrolidine | 2 ml | C(=O)N1CCCC1 | C5H9NO
reactant | CHCl3 methanol | C(Cl)(Cl)Cl.CO
solvent | tetrahyrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2,7-Di-(pyrrolidinomethyleneamino)-5,10-dioxo-4,5,9,10-tetrahydro-4,9-dioxapyrene | Yield 68% | N1(CCCC1)C=NC1=CC=2C(OC=3C=C(C=C4C(OC(=C1)C2C43)=O)N=CN4CCCC4)=O | C24H22N4O4
